US05955608
Ethyl 4-(2-piperidinoethoxy)benzoate
To a 25 mL round bottom flask with magnetic stirring and condenser and under nitrogen were added the following: the solution from step 2 containing about 10.0 mmol of ethyl 4-(2-methanesulfonylethoxy)benzoate, 2 mL (20 mmol) of piperidine, and 1.5 g K2CO3. The mixture was heated to 80° C. for 24 hours and then to 125° C. for an additional 24 hours to yield product. The yield was estimated to exceed 90%. The product was identical by chromatography and 1H-NMR to that found by published methods.

reactant | ethyl 4-(2-methanesulfonylethoxy)benzoate | about 10.0 mmol | CS(=O)(=O)CCOC1=CC=C(C(=O)OCC)C=C1 | C12H16O5S
reactant | piperidine | 20 mmol, 2 mL | N1CCCCC1 | C5H11N
reactant | K2CO3 | 1.5 g | C(=O)([O-])[O-].[K+].[K+]
product | Ethyl 4-(2-piperidinoethoxy)benzoate | N1(CCCCC1)CCOC1=CC=C(C(=O)OCC)C=C1 | C16H23NO3
